US05998470
Preparation of 1-(Cbz-homo-leucinyl)-amino-3-(2-dibenzofuransulfonamido)-propan-2-one
Following the procedure of Example 51, except 2-dibenzofuransulfonyl chloride for 4-(3-Chloro-2-cyano-phenoxy)-phenyl sulfonyl chloride and Cbz-homo-leucine for Cbz-leucine, the title compound was prepared: MS(ES) M+Na+ =602.

reactant | 2-dibenzofuransulfonyl chloride | C1=C(C=CC=2OC3=C(C21)C=CC=C3)S(=O)(=O)Cl | C12H7ClO3S
reactant | 4-(3-Chloro-2-cyano-phenoxy)-phenyl sulfonyl chloride | ClC=1C(=C(OC2=CC=C(C=C2)S(=O)(=O)Cl)C=CC1)C#N | C13H7Cl2NO3S
reactant | Cbz-homo-leucine | C(=O)(OCC1=CC=CC=C1)N[C@@H](CCC(C)C)C(=O)O | C15H21NO4
reactant | Cbz-leucine | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)O | C14H19NO4
product | 1-(Cbz-homo-leucinyl)-amino-3-(2-dibenzofuransulfonamido)-propan-2-one | C(=O)(OCC1=CC=CC=C1)N[C@@H](CCC(C)C)C(=O)C(C(CNS(=O)(=O)C1=CC2=C(OC3=C2C=CC=C3)C=C1)=O)N | C30H33N3O7S
